US06541505B1
N-[2-(3-cyano-1H-indol-5-y)-ethyl]-4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yl]-benzamide.
Using 3-hydroxy-propylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. 1H NMR (DMSO) δ 1.73 (t, 2H, J=7 Hz); 2.98 (t, 2H, J=7 Hz); 3.40 (m, 2H); 4.48 (bs, 1H); 7.20 (m, 3H); 7.48 (m, 2H); 7.92 (d, 2H, J=8 Hz); 8.18 (m, 3H); 8.37 (bd, 1H, J=5 Hz); 8.68 (bt, 1H); 12.12 (bs, 1H). MS (ion spray) m/z 441 (M+H)+.

reactant | 3-hydroxy-propylamine | OCCCN | C3H9NO
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-cyano-1H-indol-5-y)-ethyl]-4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCCO)=O | C25H24N6O2
